US07223766B2
Preparation of 4-[2-(5-Chloro-2-fluoro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-nicotinic acid
To a solution of 4-[2-(5-Chloro-2-fluoro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-nicotinic acid methyl ester (178 mg, 0.42 mmol) in dioxane (10 mL) was added NaOH (aq.) (451 μL, 0.44 mmol, 0.97N solution). The mixture was heated at 60° C. for 1 h then cooled, and HCl (aq.) (425 μL, 0.44 mmol, 1.03N solution) was added. On addition, the acid precipitated from solution and was filtered and dried in vacuo, to give 137 mg of product.

reactant | 4-[2-(5-Chloro-2-fluoro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-nicotinic acid methyl ester | 0.42 mmol, 178 mg | COC(C1=CN=CC=C1NC1=NC(=NC2=C1CC(C2)(C)C)C2=C(C=CC(=C2)Cl)F)=O | C22H20ClFN4O2
reactant | NaOH | 0.44 mmol, 0.97N, 451 μL | [OH-].[Na+]
reactant | HCl | 0.44 mmol, 1.03N, 425 μL | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-[2-(5-Chloro-2-fluoro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-nicotinic acid | 137 mg | ClC=1C=CC(=C(C1)C1=NC2=C(C(=N1)NC1=CC=NC=C1C(=O)O)CC(C2)(C)C)F | C21H18ClFN4O2
